US07572820B2
B. 2-[5-Cyano-4-(trifluoromethyl)-1H-indol-1-yl]propanoic acid
To methyl 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]propanoate (0.055 g, 0.185 mmol) in 1:1 THF/MeOH (4 mL) was added 5N NaOH (0.185 mL) and the resulting mixture was heated to 60° C. for 30 min. The cooled mixture was partitioned between Et2O and 0.1 N HCl. The separated organic portion was washed with brine, dried over Na2SO4, and filtered. Concentration afforded the title compound (0.052 g, 99% yield): MS (APCl) m/z 283 (M+1).

reactant | methyl 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]propanoate | 0.185 mmol, 0.055 g | C(#N)C=1C(=C2C=CN(C2=CC1)C(C(=O)OC)C)C(F)(F)F | C14H11F3N2O2
reactant | NaOH | 5N, 0.185 mL | [OH-].[Na+]
solvent | THF MeOH | 4 mL | C1CCOC1.CO
product | 2-[5-Cyano-4-(trifluoromethyl)-1H-indol-1-yl]propanoic acid | 0.052 g, 99% yield | C(#N)C=1C(=C2C=CN(C2=CC1)C(C(=O)O)C)C(F)(F)F | C13H9F3N2O2
